US03969393
52.6 g of the brominated product of m-tolylphenyl ether containing 26.3 g of 3-phenoxybenzyl bromide was added to a mixed solution of 100 ml of xylene and 50 ml of water, and then 11.9 g of pyridine was added thereto. The mixture was heated to 70° to 75°C, kept at the same temperature for 3 hours while stirring and then cooled to room temperature (about 20° - 30°C). The lower aqueous layer which separated was removed, washed with a small amount of xylene, evaporated and then dried under a reduced pressure to obtain 34.5 g of colorless, crystalline 3-phenoxybenzyl pyridinium bromide (m.p. 120° - 121°C).

reactant | m-tolylphenyl ether | 26.3 g | C1(=C(C=CC=C1)C=1C=C(C=CC1)OC1=CC(=CC=C1)C1=C(C=CC=C1)C)C | C26H22O
reactant | 3-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | 50 ml | O | H2O
reactant | pyridine | 11.9 g | N1=CC=CC=C1 | C5H5N
product | 3-phenoxybenzyl pyridinium bromide | [Br-].O(C1=CC=CC=C1)C=1C=C(C[N+]2=CC=CC=C2)C=CC1 | InChI=1S/C18H16NO.BrH/c1-3-9-17(10-4-1)20-18-11-7-8-16(14-18)15-19-12-5-2-6-13-19;/h1-14H,15H2;1H/q+1;/p-1
